US05348944
Condense nitrocyclopentane (prepared from bromocyclopentane and sodium nitrite) and acrolein in tetrahydrofuran in the presence of sodium hydride to obtain 3-(1-nitrocyclopentyl)propionaldehyde. Treat this aldehyde with p-toluenesulfonic acid in methanol and isolate 3-(1-nitrocylopentyl) propionaldehyde dimethyl acetal. Hydrogenate this compound with Raney nickel. Isolate 3-(1-aminocyclopentyl)propionaldehyde dimethylacetal and dissolve in aqueous acetone in the presence of p-toluenesulfonic acid and heat under reflux, followed by addition of toluene and azeotrope the mixture to give 1-azaspiro[4.4]-Δ1 -nonane.

reactant | 3-(1-aminocyclopentyl)propionaldehyde dimethylacetal | COC(CCC1(CCCC1)N)OC | C10H21NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Raney nickel | [Ni] | Ni
solvent | acetone | CC(=O)C | C3H6O
solvent | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | nonane | CCCCCCCCC | C9H20
